US07012075B2
To 2-[(5-bromo-2-pyrimidinyl)amino]-N-(cyanomethyl)-4-methylpentanamide (123 mg, 0.377 mmol) and 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid (140 mg, 0.453 mmol) in DMF (10 mL) under dry nitrogen was added aqueous sodium carbonate (2 M, 0.6 mL, 1.2 mmol) followed by the catalyst PdCl2(dppf) (15 mg, 0.0113 mmol). The reaction was heated to 90° C. for 0.5 hours and more PdCl2(dppf) (15 mg, 0.0113 mmol) was added and the reaction mixture was heated for another 5.5 hours. Water was added and the product extracted with ether (2×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 7/3) to afford tert-butyl 4-(4-{2-[(1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino]-5-pyrimidinyl}phenyl)-1-piperazinecarboxylate.

reactant | 2-[(5-bromo-2-pyrimidinyl)amino]-N-(cyanomethyl)-4-methylpentanamide | 0.377 mmol, 123 mg | BrC=1C=NC(=NC1)NC(C(=O)NCC#N)CC(C)C | C12H16BrN5O
reactant | 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid | 0.453 mmol, 140 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B(O)O | C15H23BN2O4
reactant | sodium carbonate | 1.2 mmol, 2 M, 0.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.0113 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.0113 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(4-{2-[(1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino]-5-pyrimidinyl}phenyl)-1-piperazinecarboxylate | C(#N)CNC(=O)C(CC(C)C)NC1=NC=C(C=N1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C27H37N7O3
